US06465687B1
To a solution of 3-chloro-4-hydroxyphenylacetic acid (1.25 g) in glacial acetic acid (20 mL) was added 2.0 g of iodine crystals while stirring. The mixture was stirred in dark at ambient temperature for 2 days. The resulting mixture was diluted with water, extracted with ethyl acetate, dried and concentrated in vacuo to afford 3-chloro-5-iodo-4-hydroxyphenylacetic acid. This crude product was dissolved in methanol (30 mL), treated with concentrated sulfuric acid (2 mL) carefully, stirred at reflux for 20 h. Cooled reaction mixture was concentrated under reduced pressure, diluted with water, extracted with dichloromethane. The combined organic layers were dried and concentrated. Flash column chromatography on silica gel with ethyl acetate/hexane (0-50% gradient elution) afforded 3-chloro-5-iodo-4-hydroxyphenylacetic acid methyl ester (90 mg, 4%).

reactant | 3-chloro-4-hydroxyphenylacetic acid | 1.25 g | ClC=1C=C(C=CC1O)CC(=O)O | C8H7ClO3
reactant | iodine crystals | 2.0 g | II | I2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-chloro-5-iodo-4-hydroxyphenylacetic acid | ClC=1C=C(C=C(C1O)I)CC(=O)O | C8H6ClIO3
